US05359091
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethyl-3-bromobenzylamine
To 10 ml tetrahydrofuran were added 1.44 g (5 mmol) of (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-bromobenzylamine, 47.6 mg (0.25 mmol) of copper (I) iodide and 22.4 mg (0.1 mmol) of palladium acetate and 52.5 mg (0.2 mmol) of triphenylphosphine, and further, 1.0 ml (10 mmol) of n-butylamine and 0.74 ml (6 mmol) of tert-butylacetylene under ice cooling. The mixture was stirred for 20 hours at room temperature, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=20/1). The desired fractions were put together and concentrated under reduced pressure to obtain 1.37 g (yield: 82%) of the above identified compound as an oil.

reactant | (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-bromobenzylamine | 5 mmol, 1.44 g | Cl/C=C/CN(CC)CC1=CC(=CC=C1)Br | C12H15BrClN
reactant | triphenylphosphine | 0.2 mmol, 52.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 10 mmol, 1.0 ml | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 6 mmol, 0.74 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 0.25 mmol, 47.6 mg | [Cu]I
catalyst | palladium acetate | 0.1 mmol, 22.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-ethyl-3-bromobenzylamine | yield: 82% | CC(C#C/C=C/CN(CC)CC1=CC(=CC=C1)Br)(C)C | C18H24BrN
